US07943622B2
Step 2. Synthesis of piperidin-1-yl(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 4-(piperidine-1-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt (43.0 mg, 0.083 mmol) in MeOH (1 mL). After 12 h, the reaction mixture was concentrated under reduced pressure, yielding 31.3 mg (100%) of the desired product as a white solid. LC-MS: RT=3.34 min, [M+H]+=305.2.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(piperidine-1-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt | 0.083 mmol, 43.0 mg | OC(=O)C(F)(F)F.N1(CCCCC1)C(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1
solvent | MeOH | 1 mL | CO | CH4O
product | piperidin-1-yl(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride | 31.3 mg, 100% | Cl.Cl.N1(CCCCC1)C(=O)N1C(CNCC1)COC=1C=NC=CC1 | InChI=1S/C16H24N4O2.2ClH/c21-16(19-8-2-1-3-9-19)20-10-7-18-11-14(20)13-22-15-5-4-6-17-12-15;;/h4-6,12,14,18H,1-3,7-11,13H2;2*1H
